US05217978
Using the procedure described in Example 1, (2RS,3RS)-3-hydroxy-2-methyl-3-[5-(naphth-2-ylthio)thien-2-yl]tetrahydrofuran was reacted with methyl iodide to give (2RS,3RS)-3-methoxy-2-methyl-3-[5-(naphth-2-ylthio)thien-2-yl]tetrahydrofuran in 75% yield as an oil.

reactant | (2RS,3RS)-3-hydroxy-2-methyl-3-[5-(naphth-2-ylthio)thien-2-yl]tetrahydrofuran | OC1(C(OCC1)C)C=1SC(=CC1)SC1=CC2=CC=CC=C2C=C1 | C19H18O2S2
reactant | methyl iodide | CI | CH3I
product | (2RS,3RS)-3-methoxy-2-methyl-3-[5-(naphth-2-ylthio)thien-2-yl]tetrahydrofuran | 75% yield | COC1(C(OCC1)C)C=1SC(=CC1)SC1=CC2=CC=CC=C2C=C1 | C20H20O2S2
